US07220744B2
c) 1-(5-Ethanesulfonyl-thiazol-2-yl)-piperazine hydrochloride
Prepared in analogy to example 4 (d) from 4-(5-ethanesulfonyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester and hydrogen chloride solution. The crude material was purified by recrystallisation from ether to afford the title compound as a light brown crystalline solid (yield 86%). MS (m/e): 262.0 (M+H+, 100%).

reactant | 4-(5-ethanesulfonyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)S(=O)(=O)CC | C14H23N3O4S2
reactant | hydrogen chloride | Cl | ClH
product | 1-(5-Ethanesulfonyl-thiazol-2-yl)-piperazine hydrochloride | yield 86% | Cl.C(C)S(=O)(=O)C1=CN=C(S1)N1CCNCC1 | InChI=1S/C9H15N3O2S2.ClH/c1-2-16(13,14)8-7-11-9(15-8)12-5-3-10-4-6-12;/h7,10H,2-6H2,1H3;1H
